US08227601B2
(E)-N′-(1-benzyl-4-((E)-2-(dimethylamino)vinyl)-5-nitro-6-oxo-1,6-dihydropyrimidin-2-yl)-N,N-dimethylformimidamide
To a solution of (E)-N′(1-benzyl-4-methyl-5-nitro-6-oxo-1,6-dihydropyrimidin-2-yl)-N,N-dimethylformimidamide (64.7 g, 0.2 mol) in DMF (254 mL) was added DMF-dimethylacetal (54.5 mL, 0.41 mol). The reaction mixture was stirred for 3 h at 65° C., cooled, and the solvent was removed under reduced pressure. The residue was triturated with ethanol, and the solid was collected by vacuum filtration (69.2 g, 91%) and used in the next step without further purification.

reactant | (E)-N′(1-benzyl-4-methyl-5-nitro-6-oxo-1,6-dihydropyrimidin-2-yl)-N,N-dimethylformimidamide | 0.2 mol, 64.7 g | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)[N+](=O)[O-])C)/N=C/N(C)C | C15H17N5O3
solvent | DMF | 254 mL | CN(C)C=O | C3H7NO
product | (E)-N′-(1-benzyl-4-((E)-2-(dimethylamino)vinyl)-5-nitro-6-oxo-1,6-dihydropyrimidin-2-yl)-N,N-dimethylformimidamide | C(C1=CC=CC=C1)N1C(=NC(=C(C1=O)[N+](=O)[O-])\C=C\N(C)C)/N=C/N(C)C | C18H22N6O3
